US07041696B2
Preparation of (3S,6S,10aS)-6-tert-butoxycarbonylamino-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid methyl ester (7):
5-Allyl-1-(2-tert-butoxycarbonylamino-pent-4-enoyl)-pyrrolidine-2-carboxylic acid methyl ester, 6, (3.2 g, 8.7 mmol) is dissolved in dichloromethane (40 mL). Grubbs catalyst (0.7 g, 0.85 mmol) is added and the mixture heated to reflux for 4 hours. The reaction is allowed to cool and methylsulfoxide (2 mL) is added. After 2 hours the solution is reduced to a oil, which is purified over silica (50% ethyl acetate hexane) to afford 1.76 g (60% yield) of the desired product as a dark yellow oil. 1H-NMR (300 MHz, CDCl3): δ 5.79 (m, 2H), 5.61 (d, J=6.9, 1H), 4.89 (dd, J=15, 7.2, 5.79 (m, 2H), 5.61 (d, J=6.9, 1H), 4.89 (dd, J=15, 7.2, 5.79 (m, 2H), 5.61 (d, J=6.9, 1H), 4.89 (dd, J=15, 7.2, 1H), 4.54 (m, 1H), 4.15 (m, 1H), 3.75 (s, 3H), 2.81 (m, 2H) 2.49–1.98 (m, 6H), 1.47 (s, 9H). 13C NMR (CDCl3): □ 172.6, 171.3, 155.4, 129.4, 126.0, 79.9, 60.3, 58.9, 52.2, 52.1, 35.5, 33.2, 33.1, 28.6, 27.4. ESI MS: 339.18 (M+H).

reactant | 5-Allyl-1-(2-tert-butoxycarbonylamino-pent-4-enoyl)-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)C1N(C(CC1)CC=C)C(C(CC=C)NC(=O)OC(C)(C)C)=O | C19H30N2O5
reactant | methylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | Grubbs catalyst | 0.85 mmol, 0.7 g | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
product | (3S,6S,10aS)-6-tert-butoxycarbonylamino-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid methyl ester | 1.76 g, 60% yield | COC(=O)[C@@H]1CC[C@@H]2N1C([C@H](CC=CC2)NC(=O)OC(C)(C)C)=O | C17H26N2O5
